US06432964B1
Methyl 4-Formamido-3-thenoate
A stirred solution of methyl 4-amino-3-thenoate (4 g), sodium acetate trihydrate (2.8 g) and formic acid (27 ml) was heated at 95° C. for 1 hour. On cooling the solution was poured into water, and the solution filtered to give the title product as a solid.

reactant | methyl 4-amino-3-thenoate | 4 g | NC=1C(=CSC1)C(=O)OC | C6H7NO2S
reactant | sodium acetate trihydrate | 2.8 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | formic acid | 27 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | Methyl 4-Formamido-3-thenoate | C(=O)NC=1C(=CSC1)C(=O)OC | C7H7NO3S
